*
C1 N073 N072 1µ
C2 N074 N073 2µ
C3 N075 N074 3µ
C4 N076 N075 4µ
C5 N077 N076 5µ
R1 N072 N001 100
C6 N078 N077 1µ
C7 N079 N078 2µ
C8 N080 N079 3µ
C9 N081 N080 4µ
C10 0 N081 5µ
V1 0 N001 SINE(0 10 1k)
C11 N070 N071 1µ
C12 N069 N070 2µ
C13 N068 N069 3µ
C14 N067 N068 4µ
C15 N066 N067 5µ
R2 N071 0 100
C16 N065 N066 1µ
C17 N064 N065 2µ
C18 N063 N064 3µ
C19 N062 N063 4µ
C20 N001 N062 5µ
C21 N053 N052 1µ
C22 N054 N053 2µ
C23 N055 N054 3µ
C24 N056 N055 4µ
C25 N057 N056 5µ
R3 N052 N001 100
C26 N058 N057 1µ
C27 N059 N058 2µ
C28 N060 N059 3µ
C29 N061 N060 4µ
C30 0 N061 5µ
C31 N050 N051 1µ
C32 N049 N050 2µ
C33 N048 N049 3µ
C34 N047 N048 4µ
C35 N046 N047 5µ
R4 N051 0 100
C36 N045 N046 1µ
C37 N044 N045 2µ
C38 N043 N044 3µ
C39 N042 N043 4µ
C40 N001 N042 5µ
C41 N033 N032 1µ
C42 N034 N033 2µ
C43 N035 N034 3µ
C44 N036 N035 4µ
C45 N037 N036 5µ
R5 N032 N001 100
C46 N038 N037 1µ
C47 N039 N038 2µ
C48 N040 N039 3µ
C49 N041 N040 4µ
C50 0 N041 5µ
C51 N030 N031 1µ
C52 N029 N030 2µ
C53 N028 N029 3µ
C54 N027 N028 4µ
C55 N026 N027 5µ
R6 N031 0 100
C56 N025 N026 1µ
C57 N024 N025 2µ
C58 N023 N024 3µ
C59 N022 N023 4µ
C60 N001 N022 5µ
C61 N013 N012 1µ
C62 N014 N013 2µ
C63 N015 N014 3µ
C64 N016 N015 4µ
C65 N017 N016 5µ
R7 N012 N001 100
C66 N018 N017 1µ
C67 N019 N018 2µ
C68 N020 N019 3µ
C69 N021 N020 4µ
C70 0 N021 5µ
C71 N010 N011 1µ
C72 N009 N010 2µ
C73 N008 N009 3µ
C74 N007 N008 4µ
C75 N006 N007 5µ
R8 N011 0 100
C76 N005 N006 1µ
C77 N004 N005 2µ
C78 N003 N004 3µ
C79 N002 N003 4µ
C80 N001 N002 5µ
.tran 0 1ms 0 1us
.backanno
.end
